US05166188
4-((N-Methyl-N-(2-(3,4-dimethoxyphenyl)ethyl)amino)-3-methylpropionitrile
4.67 g of 3-((N-methyl-N-(2-(3,4-dimethoxyphenyl)ethyl)-amino-2-methylpropyl chloride was dissolved in 40 ml of acetonitrile, followed by the addition of 2.13 g of potassium cyanide and 0.1 g of 18-crown-6. The obtained mixture was heated under reflux for 40 hours, followed by the addition of water. The obtained mixture was extracted with ethyl acetate. The ethyl acetate phase was washed with water and a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was purified by silica gel column chromatography [solvent: n-hexane/ethyl acetate (1:1)] to obtain 3.93 g of the title compound as a pale yellow oil (yield: 87%).

reactant | N-methyl-N-(2-(3,4-dimethoxyphenyl)ethyl)-amino-2-methylpropyl chloride | CN(CCC1=CC(=C(C=C1)OC)OC)C(C(C)C)Cl | C15H24ClNO2
reactant | potassium cyanide | 2.13 g | [C-]#N.[K+]
reactant | 18-crown-6 | 0.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | water | O | H2O
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | (N-Methyl-N-(2-(3,4-dimethoxyphenyl)ethyl)amino)-3-methylpropionitrile | 3.93 g, yield: 87% | CN(CCC1=CC(=C(C=C1)OC)OC)C(C#N)CC | C15H22N2O2
